US07531541B2
5-Methyl-2-trimethylsilanylethynyl-pyridine
To a solution of 2-bromo-5-methylpyridine (17.4 mmol) in 50 mL of degassed Et3N was added trimethylsilylacetylene (19.1 mmol), CuI, (1.74 mmol) and trans-dichlorobis(triphenylphosphine)palladium (1.74 mmol). The resulting solution was stirred at RT overnight under N2 atmosphere. The black solution was then hydrolyzed with 30 mL of H2O and extracted with Et20 (3×30 mL). Purification of the residue by column chromatography (hexane/Et2O 9/1) provided the desired compound in 81% yield as brown oil. 1H NMR (CDCI3) δ ppm: 0.08 (s, 9H, CH3); 2.30 (s, 3H, CH3); 7.41 (d, 1H, J=7.5 Hz, CHAT), 7.59 (d, 1H, J=7.5 Hz, CHAr); 8.41 (s, 1H, CHAr). 13C NMR (CDCl3) δ ppm: 0.0 (3C, CH3); 18.9 (1C, CH3); 94.0 (1C, C═C); 104.7 (1C, C═C); 126.1 (1C, CHAr); 132 (1C, Cq); 135.2 (1C, CHAr); 141.6 (1C, Cq); 150.7 (1C, CHAr).

reactant | 2-bromo-5-methylpyridine | 17.4 mmol | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | trimethylsilylacetylene | 19.1 mmol | C[Si](C)(C)C#C | C5H10Si
solvent | Et3N | 50 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 1.74 mmol | [Cu]I
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 1.74 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Methyl-2-trimethylsilanylethynyl-pyridine | 81% yield | CC=1C=CC(=NC1)C#C[Si](C)(C)C | C11H15NSi
